US09353113B2
methyl 4-(2-tert-butoxy-2-oxoethyl)-2-chlorobenzoate
To methyl 2-chloro-4-iodobenzoate (296 mg) was added a solution (4.5 mL) of 2-tert-butoxy-2-oxoethylzinc bromide in THF, then, bis(tri-tert-butylphosphine)palladium (51 mg) was added, and a reaction was performed at 50 W and 80° C. for 10 minutes using a microwave synthesis apparatus manufactured by CEM Co. The reaction solution was poured into an aqueous saturated ammonium chloride solution, and ethyl acetate was added. Insolubles were filtered off with Celite, and layers were separated. The organic layer was washed with an aqueous saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by medium pressure preparative liquid chromatography W-prep 2XY (column: main column M, inject column S; automatic condition setting: n-hexane:ethyl acetate=4:1, Rf=0.60) to obtain the title compound (94 mg) having following physical property values.

reactant | methyl 2-chloro-4-iodobenzoate | 296 mg | ClC1=C(C(=O)OC)C=CC(=C1)I | C8H6ClIO2
reactant | 2-tert-butoxy-2-oxoethylzinc bromide | 4.5 mL | [Br-].C(C)(C)(C)OC(C[Zn+])=O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | bis(tri-tert-butylphosphine)palladium | 51 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | methyl 4-(2-tert-butoxy-2-oxoethyl)-2-chlorobenzoate | 94 mg | C(C)(C)(C)OC(CC1=CC(=C(C(=O)OC)C=C1)Cl)=O | C14H17ClO4
